US06638965B2
(Z)-3-{1-[4-(benzylaminocarbonylmethyl)-phenylamino]-1-phenyl-methylidene}-5-phenylsulphonylamino-2-indolinone
A solution of 315 mg (0.6 mmol) of (Z)-3-[1-(4-carboxymethyl-phenylamino)-1-phenyl-methylidene]-5-phenylsulphonylamino-2-indolinone, 85 mg (0.8 mmol) of benzylamine, 212 mg (0.66 mmol) of TBTU and 1 ml of N-ethyl-N,N-diisopropyl-amine in 5 ml of DMF is stirred for 3 hours at ambient temperature. Then 50 ml of water are added. The yellow precipitate formed is suction filtered, washed with water, a little isopropanol and ether, then dried in vacuo.

reactant | (Z)-3-[1-(4-carboxymethyl-phenylamino)-1-phenyl-methylidene]-5-phenylsulphonylamino-2-indolinone | 0.6 mmol, 315 mg | C(=O)(O)CC1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=C(C=C12)NS(=O)(=O)C1=CC=CC=C1)=O | C29H23N3O5S
reactant | benzylamine | 0.8 mmol, 85 mg | C(C1=CC=CC=C1)N | C7H9N
reactant | TBTU | 0.66 mmol, 212 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N-ethyl-N,N-diisopropyl-amine | 1 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | 50 ml | O | H2O
product | (Z)-3-{1-[4-(benzylaminocarbonylmethyl)-phenylamino]-1-phenyl-methylidene}-5-phenylsulphonylamino-2-indolinone | C(C1=CC=CC=C1)NC(=O)CC1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=C(C=C12)NS(=O)(=O)C1=CC=CC=C1)=O | C36H30N4O4S
